US07196080B2
To an ethanol (6 ml) solution of 327 mg of 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazine monohydrochloride were added 0.28 ml of triethylamine and 148 mg of 2,4-dichloropyrimidine, followed by 2 hours of stirring at an oil bath temperature of 90° C. After the solvent was evaporated, water was added thereto, followed by extraction with chloroform. The organic layer was washed with water and then dried over anhydrous magnesium sulfate, and thereafter, the solvent was evaporated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) and further, recrystallization was carried out from acetonitrile-diisopropyl ether to obtain 70 mg of 2-chloro-4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrimidine monohydrate as colorless crystals.

reactant | ethanol | 6 ml | C(C)O | C2H6O
reactant | 1-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazine monohydrochloride | 327 mg | Cl.COC=1C=C(C=CC1OC)C1=CC=CC(=N1)C(=O)N1CCNCC1
reactant | 2,4-dichloropyrimidine | 148 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
product | 2-chloro-4-{4-[6-(3,4-dimethoxyphenyl)pyridine-2-carbonyl]piperazin-1-yl}pyrimidine monohydrate | 70 mg | O.ClC1=NC=CC(=N1)N1CCN(CC1)C(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)OC)OC | InChI=1S/C22H22ClN5O3.H2O/c1-30-18-7-6-15(14-19(18)31-2)16-4-3-5-17(25-16)21(29)28-12-10-27(11-13-28)20-8-9-24-22(23)26-20;/h3-9,14H,10-13H2,1-2H3;1H2
